US06174458B1
Mixture of (1-hydroxy-4-pentylcyclohexyl)-3,5-difluorobenzene (300 mmol), the Amberlist 15E (4.0 g), and 1,000 ml of toluene was refluxed for 6 hours. After allowed to cool, the Amberlist 15E was filtered off, the solvent was distilled off, and the residue was purified by column chromatography (eluent: heptane) to give a (4-pentyl-1-cyclohexenyl)-3,5-difluorobenzene (170 mmol).

reactant | (1-hydroxy-4-pentylcyclohexyl)-3,5-difluorobenzene | 300 mmol | OC1(CCC(CC1)CCCCC)C1=CC(=CC(=C1)F)F | C17H24F2O
solvent | toluene | 1,000 ml | C1(=CC=CC=C1)C | C7H8
product | (4-pentyl-1-cyclohexenyl)-3,5-difluorobenzene | 170 mmol | C(CCCC)C1CC=C(CC1)C1=CC(=CC(=C1)F)F | C17H22F2
